US05000775
Ethyl 2-[(1-methylethyl)amino]-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 6.1 g (60 mmol) of isopropyl urea was reacted with 10.9 g (50 mmol) ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 24 hours. The product mixture was treated with methylene chloride, washed with water, dried and concentrated. The residue was recrystallized from methylcyclohexane to yield 6.3 g of crystal product (m.p.=51°-52° C.) identified in Table I.

reactant | isopropyl urea | 60 mmol, 6.1 g | C(C)(C)NC(=O)N | C4H10N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 2-[(1-methylethyl)amino]-4-(trifluoromethyl)-5-oxazolecarboxylate | 6.3 g | CC(C)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C10H13F3N2O3
